US05891909
a) 3-(2,3-Dichlorophenylsulfonyloxy)-5-methylphenol
Orcinol monohydrate (1.42 g, 10.0 mmol) and 2,3-dichlorobenzenesulfonyl chloride (2.46 g, 10.0 mmol) were mixed in saturated aqueous NaHCO3 (30 mL) and diethyl ether (30 mL). The biphasic mixture was stirred vigorously at ambient temperature overnight. The reaction mixture was diluted with water (50 mL) and extracted into ethyl acetate (3×50 mL). The organic phase was washed with brine (2×50 mL) and dried over Na2SO4. After removing the solvent in vacuo, the residue was purified by flash column chromatography (dichloromethane to 2% ethyl acetate in dichloromethane) to give the title compound as a pale yellow solid (1.45 g, 45%). 1H-NMR (300 MHz, CDCl3) δ 7.91 (d, J=8.0 Hz, 1 H), 7.75 (d, J=8.0 Hz, 1 H), 7.33 (t, J=8.0 Hz, 1 H), 6.55 (s, 2 H), 6.44 (s, 1 H), 5.27 (s, 1 H), 2.24 (s, 3 H).

reactant | Orcinol monohydrate | 10.0 mmol, 1.42 g | O.C1(=CC(O)=CC(C)=C1)O
reactant | 2,3-dichlorobenzenesulfonyl chloride | 10.0 mmol, 2.46 g | ClC1=C(C=CC=C1Cl)S(=O)(=O)Cl | C6H3Cl3O2S
solvent | NaHCO3 | 30 mL | C(=O)(O)[O-].[Na+]
solvent | diethyl ether | 30 mL | C(C)OCC | C4H10O
solvent | water | 50 mL | O | H2O
product | 3-(2,3-Dichlorophenylsulfonyloxy)-5-methylphenol | 1.45 g, 45% | ClC1=C(C=CC=C1Cl)S(=O)(=O)OC=1C=C(C=C(C1)C)O | C13H10Cl2O4S
